US06054587
The N-(2-furoyl)-2-methyl-3-nitroaniline (1 mmol) in DMSO was treated with potassium hydroxide (2.0 mmol) and 1-bromo-2-methylpropane (1.1 mmol) at 25° C. for 12 hr. Extraction and chromatography afforded N-(2-furoyl)-N-isobutyl-2-methyl-3-nitroaniline as a yellow syrup. TLC: Rf=0.40, 30% EtOAc-hexane.

reactant | N-(2-furoyl)-2-methyl-3-nitroaniline | 1 mmol | O1C(=CC=C1)C(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])C | C12H10N2O4
reactant | potassium hydroxide | 2.0 mmol | [OH-].[K+]
reactant | 1-bromo-2-methylpropane | 1.1 mmol | BrCC(C)C | C4H9Br
solvent | DMSO | CS(=O)C | C2H6OS
product | N-(2-furoyl)-N-isobutyl-2-methyl-3-nitroaniline | O1C(=CC=C1)C(=O)N(C1=C(C(=CC=C1)[N+](=O)[O-])C)CC(C)C | C16H18N2O4
